US09085540B2
A mixture of 3,5-dichloro-6-ethylpyrazine-2-carboxamide (600 mg), 3-fluoro-4-(morpholin-4-yl)aniline (500 mg), diisopropylethylamine (880 μL), and N-methylpyrrolidone (2.5 mL) was reacted in a microwave reaction device at 180° C. for 1 hour. After leaving to be cooled, to the reactant was added water, and the precipitated solid was collected by filtration and then washed with ethanol to obtain 5-chloro-6-ethyl-3-{[3-fluoro-4-(morpholin-4-yl)phenyl]amino}pyrazine-2-carboxamide (640 mg) as a yellow solid.

reactant | 3,5-dichloro-6-ethylpyrazine-2-carboxamide | 600 mg | ClC=1C(=NC(=C(N1)Cl)CC)C(=O)N | C7H7Cl2N3O
reactant | 3-fluoro-4-(morpholin-4-yl)aniline | 500 mg | FC=1C=C(N)C=CC1N1CCOCC1 | C10H13FN2O
reactant | diisopropylethylamine | 880 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methylpyrrolidone | 2.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 5-chloro-6-ethyl-3-{[3-fluoro-4-(morpholin-4-yl)phenyl]amino}pyrazine-2-carboxamide | 640 mg | ClC=1N=C(C(=NC1CC)C(=O)N)NC1=CC(=C(C=C1)N1CCOCC1)F | C17H19ClFN5O2
